US09315463B2
N,N-dibenzyl-1,4-dioxaspiro[4.5]decan-8-amine dibenzyl(1,4-dioxaspiro[4.5]dec-8-yl)amine
To a solution of 1,4-dioxaspiro[4.5]decan-8-one (25 g, 0.16 mol) in 1,2-dichloroetrane (396 mL) was added dibenzylamine (32.3 mL, 0.16 mol) under nitrogen atmosphere and the resulting solution was stirred for 2 hours at room temperature. Then sodium triacetoxyborohydride (55.4 g, 0.25 mol) was added portionwise and the reaction mixture was stirred at room temperature overnight. A mixture of bicarbonate and dichloromethane (1:1) was added to the reaction mixture and it was stirred for half an hour, then the organic phase was extracted and washed with bicarbonate and brine, dried, filtered and the organic solvent was evaporated under reduced pressure. The resulting oil was precipitated with hexane obtaining a white solid as a title compound (80%), which was used in the next step without further manipulation.

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 0.16 mol, 25 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | dibenzylamine | 0.16 mol, 32.3 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | sodium triacetoxyborohydride | 0.25 mol, 55.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | bicarbonate | C([O-])(O)=O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N-dibenzyl-1,4-dioxaspiro[4.5]decan-8-amine dibenzyl(1,4-dioxaspiro[4.5]dec-8-yl)amine | C(C1=CC=CC=C1)N(C1CCC2(OCCO2)CC1)CC1=CC=CC=C1.C(C1=CC=CC=C1)N(C1CCC2(OCCO2)CC1)CC1=CC=CC=C1 | 2C22H27NO2
